US06262045B1
10.2. Ethyl 8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate
The preparation is carried out as in Example 1.3, from 5 g (16.2 mmol) of ethyl 2-(ethoxycarbonyl)-5-fluoro-α-oxo-1H-indole-3-acetate and from 9.5 ml of phenylhydrazine in 150 ml of acetic acid. 3.9 g (11 mmol) of solid are isolated, which solid is used as is in the following stage.

reactant | ethyl 2-(ethoxycarbonyl)-5-fluoro-α-oxo-1H-indole-3-acetate | 16.2 mmol, 5 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1C(C(=O)OCC)=O)F | C15H14FNO5
reactant | phenylhydrazine | 9.5 ml | C1(=CC=CC=C1)NN | C6H8N2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | Ethyl 8-fluoro-4-oxo-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indole-1-carboxylate | 11 mmol, 3.9 g | FC1=CC=2C3=C(NC2C=C1)C(N(N=C3C(=O)OCC)C3=CC=CC=C3)=O | C19H14FN3O3
